US07759518B2
Step D: 1,2,3-Trifluoro-5-methyl-4-nitrobenzene
1,2,3-Trifluoro-5-methylbenzene (40 mmol) was added to conc. H2SO4 (50 ml) at 0-5° C. Then the reaction mixture was slowly treated with conc. HNO3 (3.39 ml, 48.44 mmol, 90%) while maintaining the internal temperature below 20° C. The reaction mixture was stirred at room temperature for 16 h and poured onto ice (300 g) and the oily layer was extracted with CH2Cl2 (2×125 ml). The organic layer was washed with water (2×200 ml), brine (200 ml) and dried (MgSO4) and evaporated to obtain the crude product which was purified over flash silica gel chromatography to obtain the title product (6.5 g, 85%). 1H-NMR (300 MHz, CDCl3): δ 6.96 (septet, 1H), 2.39 (s, 3H). 19FNMR (CDCl3): δ −128.18, −141.50, −159.05.

reactant | 1,2,3-Trifluoro-5-methylbenzene | 40 mmol | FC1=C(C(=CC(=C1)C)F)F | C7H5F3
reactant | HNO3 | 48.44 mmol, 3.39 ml | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 50 ml | OS(=O)(=O)O | H2O4S
product | 1,2,3-Trifluoro-5-methyl-4-nitrobenzene | 6.5 g, 85% | FC1=C(C(=C(C(=C1)C)[N+](=O)[O-])F)F | C7H4F3NO2
